US08048874B2
Methyl (4(S)-phenyloxazolidin-2-on-3-yl)acetate.
A solution of (4(S)-phenyloxazolidin-2-on-3-yl)acetic acid (1 g, 4.52 mmol) (Evans in U.S. Pat. No. 4,665,171) in 20 mL of anhydrous methanol was treated hourly with 5 equivalents of acetyl chloride, for a total of 20 equivalents. The resulting solution was stirred overnight. The residue obtained after evaporation of the MeOH was redissolved in 30 mL of CH2Cl2 and treated with 50 mL of saturated aqueous Na2CO3. The organic layer was evaporated and dried (MgSO4) to yield the title compound as a colorless oil (1.001 g, 94%); 1H NMR (CDCl3) δ 3.37 (d, J=18.0 Hz, 1H), 3.69 (s, 3H), 4.13 (t, J=8.3 Hz, 1H), 4.28 (d, J=18.0 Hz, 1H), 4.69 (t, J=8.8 Hz, 1H), 5.04 (t, J=8.4 Hz, 1H), 7.26-7.29 (m, 2H), 7.36-7.42 (an, 3H).

reactant | (4(S)-phenyloxazolidin-2-on-3-yl)acetic acid | 4.52 mmol, 1 g | C1(=CC=CC=C1)[C@@H]1N(C(OC1)=O)CC(=O)O | C11H11NO4
reactant | acetyl chloride | 5 equivalents | C(C)(=O)Cl | C2H3ClO
solvent | methanol | 20 mL | CO | CH4O
product | Methyl (4(S)-phenyloxazolidin-2-on-3-yl)acetate | 1.001 g, 94% | C1(=CC=CC=C1)[C@@H]1N(C(OC1)=O)CC(=O)OC | C12H13NO4
